US05436229
D) D,L-Phe(αEt)-OH
To a stirring solution of D,L-Phe(αEt)-OMe (24 g, 116 mmol) in tetrahydrofuran (200 mL) was added 5N NaOH (24 mL, 120 mmol), followed by water (50 mL) and methanol (50 mL) and the solution was heated to reflux. After 16 h, the solution was cooled to room temperature and the solvents were removed in vacuo. The residue was dissolved in water and washed three times with diethyl ether. The pH was adjusted to 6 with 5N HCl and the solution was concentrated to a volume of about 50 mL in vacuo. The precipitate was filtered, washed with water and dried to give 17.5 g (78% yield) of white solid.

reactant | D,L-Phe(αEt)-OMe | 116 mmol, 24 g | NC(CC1=CC=CC=C1)(C(=O)OC)CC | C12H17NO2
reactant | NaOH | 120 mmol, 5N, 24 mL | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | methanol | 50 mL | CO | CH4O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | D,L-Phe(αEt)-OH | 17.5 g, 78% yield | NC(CC1=CC=CC=C1)(C(=O)O)CC | C11H15NO2
